US06506901B2
Step D: 4-(4-(Dimethoxymethyl)piperidinyl)benzoic Acid
A solution of methyl 4-(4-(dimethoxymethyl)piperidinyl)benzoate(5.6 g, 18.2 mol) was in methanol (50 mL) 1N sodium hydroxide (27 mL) was heated at 80° C. for 5 hours. The reaction was neutralized with 1N HCl (27 ml) and concentrated in vacuo. Additional methanol was added to the residue which was filtered (0.5 micron filter) and evaporated to give 5.0 g of the product.

reactant | methyl 4-(4-(dimethoxymethyl)piperidinyl)benzoate | 18.2 mol, 5.6 g | COC(C1CCN(CC1)C1=CC=C(C(=O)OC)C=C1)OC | C16H23NO4
reactant | HCl | 1N, 27 ml | Cl | ClH
solvent | methanol | 1N, 50 mL | CO | CH4O
product | 4-(4-(Dimethoxymethyl)piperidinyl)benzoic Acid | 5.0 g | COC(C1CCN(CC1)C1=CC=C(C(=O)O)C=C1)OC | C15H21NO4
